US07691878B2
Preparation 7: Cyclohexyl azide
Cyclohexyl bromide (2.74 mL, 0.023 mol) was added to a stirred solution of 0.5M sodium azide in DMSO (50 mL, 0.025 mol) at room temperature, under an atmosphere of nitrogen. The reaction mixture was heated to 75° C. behind a blast shield and stirred for 5 h. The reaction mixture was then cooled with an ice-bath, quenched by the addition of water (75 mL) and extracted with diethyl ether (3×125 mL). The combined organic layers were washed with brine (75 mL), dried (MgSO4), filtered and concentrated in vacuo to afford the title compound as a crude oil (2.4 g) which was used without further purification.

reactant | Cyclohexyl bromide | 0.023 mol, 2.74 mL | C1(CCCCC1)Br | C6H11Br
reactant | sodium azide | 0.5M | [N-]=[N+]=[N-].[Na+]
reactant | DMSO | 0.025 mol, 50 mL | CS(=O)C | C2H6OS
product | Cyclohexyl azide | C1(CCCCC1)N=[N+]=[N-] | C6H11N3
